US07759369B2
2-[(5-Chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-6-(1H-tetrazol-5-yl)pyridine
A mixture of 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-2-pyridinecarbonitrile (93 mg), sodium azide (51 mg), ammonium chloride (42 mg) and dimethylformamide (1 ml) was stirred at 120° for 11 hours. After cooling, water (5 ml) was added and the mixture extracted with ethyl acetate (2×5 ml). The combined extracts were dried (MgSO4) and concentrated in vacuo. The residue was purified by mass-directed autopreparation to afford the title compound (29.7 mg, 29%) as a white solid.

reactant | 6-[(5-chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-2-pyridinecarbonitrile | 93 mg | ClC=1C=CC(=C(C1)CC1=CC=CC(=N1)C#N)OCC1=C(C=C(C=C1)Cl)F | C20H13Cl2FN2O
reactant | sodium azide | 51 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 42 mg | [Cl-].[NH4+]
reactant | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | water | 5 ml | O | H2O
product | 2-[(5-Chloro-2-{[(4-chloro-2-fluorophenyl)methyl]oxy}phenyl)-methyl]-6-(1H-tetrazol-5-yl)pyridine | 29.7 mg, 29% | ClC=1C=CC(=C(C1)CC1=NC(=CC=C1)C1=NN=NN1)OCC1=C(C=C(C=C1)Cl)F | C20H14Cl2FN5O
